US05721347
A) 5-(m-chlorobenzoyl)-1-methylpyrrole -2-acetonitrile
To a cooled suspension of 16.6 g. (0.12 mole) aluminum chloride in 60 ml. 1,2-dichlorobenzoylchloride is added dropwise 23 g. (0.12 mole) m-chlorobenzoylchloride. The resulting suspension is added dropwise to a cooled solution of 15 g. (0.12 mole) 1-methylpyrrole-2-acetonitrile in 60 ml. 1,2-dichloroethane. The reaction mixture is stirred for about twenty minutes at room temperature and then heated and refluxed for three minutes. The reaction is terminated by pouring the mixture into ice acidified with 3N hydrochloric acid. The resulting two fractions are separated. The aqueous fraction is washed with chloroform. The organic fraction is then dried over anhydrous magnesium sulfate. The solvent is evaporated, and the resulting residue is triturated with cold methanol to yield a precipitate of the desired product which is filtered off and set aside. The methanol filtrate is concentrated in vacuo and the remaining oily residue is chromatographed on a column packed with neutral alumina using hexane, benzene and ether as the successive solvents. About 2.5 g. of the desired product are isolated by evaporation of the first few compound-bearing (ether) fractions. The solids are combined and recrystallized from methanol to yield about 3.6 g. of 5-(m-chlorobenzoyl)-1-methylpyrrole-2-acetonitrile, M.P. 122°-127° C.

reactant | aluminum chloride | 0.12 mole | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 1,2-dichlorobenzoylchloride | ClC1(C(=O)Cl)C(C=CC=C1)Cl | C7H5Cl3O
reactant | m-chlorobenzoylchloride | 0.12 mole | ClC=1C=C(C(=O)Cl)C=CC1 | C7H4Cl2O
reactant | 1-methylpyrrole-2-acetonitrile | 0.12 mole | CN1C(=CC=C1)CC#N | C7H8N2
solvent | 1,2-dichloroethane | ClCCCl | C2H4Cl2
product | 5-(m-chlorobenzoyl)-1-methylpyrrole -2-acetonitrile | ClC=1C=C(C(=O)C2=CC=C(N2C)CC#N)C=CC1 | C14H11ClN2O
